US06930120B2
3-Hydroxy-2-methyl-2-phenoxy-3-thiophen-2-yl-propionic acid
To a 2.0 M solution of LDA in THF/heptane/ethyl benzene (200 mL, 408 mmol) cooled by an ice/acetone bath, a 0.75 M solution of 2-phenoxypropionic acid (30.8 g, 185 mmol) in THF (250 mL) was added dropwise over 30 min, keeping the reaction temperature below −10° C. After allowing the reaction mixture to stir for 15 min, a 0.75 M solution of 2-thiophenecarboxaldehyde (20.8 g, 185 mmol) in THF (250 mL) was added dropwise over the course of 1 h, maintaining the reaction temperature below −5° C. After stirring for 5 min at 0° C., HPLC analysis showed the reaction to be complete. The reaction was poured into ice water (600 mL) and ether (500 mL) was added. Hexane (1.0 L) was added and the layers were separated. The aqueous layer was further extracted with Et2O: hexane (1:2) (750 mL). The organic layers were checked for product then discarded. ethyl acetate (500 mL) was added to the aqueous layer, acidified to pH=2 with conc. HCl (18 mL), and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×200 mL). The organic layer was dried over NaCl and solvent removed in vacuo to provide 50.0 g of crude product. The product was used in the next step without further purification: 1H NMR (400 MHz, CDCl3) δ 7.33 (dd, 1H), 7.26 (m, 2H), 7.12 (m, 1H), 7.04 (d, 1H), 6.97 (m, 2H), 6.87 (dd, 1H), 5.37 (s, 1H), 1.40 (s, 3H); MS (EI−) 277.1 (M−1)−.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | THF heptane ethyl benzene | 408 mmol, 200 mL | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | 2-phenoxypropionic acid | 185 mmol, 30.8 g | O(C1=CC=CC=C1)C(C(=O)O)C | C9H10O3
reactant | 2-thiophenecarboxaldehyde | 185 mmol, 20.8 g | S1C(=CC=C1)C=O | C5H4OS
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | Hexane | 1.0 L | CCCCCC | C6H14
solvent | ether | 500 mL | CCOCC | C4H10O
product | 3-Hydroxy-2-methyl-2-phenoxy-3-thiophen-2-yl-propionic acid | 50.0 g | OC(C(C(=O)O)(OC1=CC=CC=C1)C)C=1SC=CC1 | C14H14O4S
